US09084826B2
Preparation of 1-((3R,5R)-3,5-dihydroxy-7-(2-(5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamidoethylamino)-7-oxoheptyl)-5-(4-fluorophenyl)-2-isopropyl-N,4-diphenyl-1H-pyrrole-3-carboxamide (I-23)
The same procedures outlined in example 6 were employed, substituting (5Z,8Z,11Z,14Z,17Z)—N-(2-aminoethyl)icosa-5,8,11,14,17-pentaenamide as the appropriate amine component during the amide coupling with atorvastatin. (5Z,8Z,11Z,14Z,17Z)—N-(2-aminoethyl)icosa-5,8,11,14,17-pentaenamide, in turn, was prepared according to the procedures outlined in WO 2012115695 using (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid as the starting material. MS calculated for C55H69FN4O5: 884.53. found: [M+H]+ 885.

reactant | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
reactant | (5Z,8Z,11Z,14Z,17Z)—N-(2-aminoethyl)icosa-5,8,11,14,17-pentaenamide | NCCNC(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C22H36N2O
reactant | (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C20H30O2
product | 1-((3R,5R)-3,5-dihydroxy-7-(2-(5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamidoethylamino)-7-oxoheptyl)-5-(4-fluorophenyl)-2-isopropyl-N,4-diphenyl-1H-pyrrole-3-carboxamide | O[C@H](CCN1C(=C(C(=C1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)C(C)C)C[C@H](CC(=O)NCCNC(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)O | C55H69FN4O5
